US05591869
39 g of 4-methylbenzoyl chloride were added dropwise to a suspension of 33.8 g of aluminium chloride in 162.5 ml of chlorobenzene while stirring at 0° C. over the course of 30 minutes. The mixture was stirred at 0° C. for 90 minutes and subsequently, at 0° C., a solution of 21.8 g of thiophene in 33.8 ml of chlorobenzene was added dropwise over the course of 30 minutes. The mixture was stirred at 0° C. for 2 hours and then heated under reflux for 15 minutes until evolution of hydrogen chloride ceased. The resulting solution was added dropwise over the course of 30 minutes to a suspension of 7.2 g of sodium borohydride in 50 ml of diglyme heated to 70° C. The mixture was stirred at 70° C. for 1.5 hours and then discharged into a mixture of 250 g of ice, 200 ml of water and 62.5 g of concentrated aqueous hydrochloric acid. After addition of 100 ml of chlorobenzene and thorough stirring, the organic phase was separated off, washed with 100 ml of water and concentrated by distillation. Yield: 57.7 g of crude substance, 71.0% pure (GC), corresponding to a yield of 87.2% of theory. Distillation resulted in a 99.4% pure 2-(4-methylbenzyl)thiophene with boiling point 98° C./4 mbar.

reactant | 4-methylbenzoyl chloride | 39 g | CC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO
reactant | aluminium chloride | 33.8 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | thiophene | 21.8 g | S1C=CC=C1 | C4H4S
reactant | hydrogen chloride | Cl | ClH
reactant | sodium borohydride | 7.2 g | [BH4-].[Na+]
reactant | hydrochloric acid | 62.5 g | Cl | ClH
solvent | chlorobenzene | 162.5 ml | ClC1=CC=CC=C1 | C6H5Cl
solvent | chlorobenzene | 33.8 ml | ClC1=CC=CC=C1 | C6H5Cl
solvent | diglyme | 50 ml | COCCOCCOC | C6H14O3
solvent | chlorobenzene | 100 ml | ClC1=CC=CC=C1 | C6H5Cl
solvent | water | 200 ml | O | H2O
product | 2-(4-methylbenzyl)thiophene | 99.4% | CC1=CC=C(CC=2SC=CC2)C=C1 | C12H12S
